US06759511B2
1-Methyl-4-nitroimidazole-2-carboxylic acid ethyl ester (71.05 mg, 0.3567 mmol) was dissolved in EA (10 ml) and 10% Pd/C (10 mg, catalytic weight) was added thereto. The reaction solution was stirred for 10 hours at room temperature under hydrogen atmosphere to reduce a nitro group (NO2) into an amino group (NH2), whereby an imidazole-type amino acid was obtained. 10% Pd/C was filtered out by celite 545 and the filtrate was washed with EA and methanol. 1-Methyl-4-[2-(4-trifluoromethyl-benzenesulfonyl)-ethoxycarbonylamino]-1H-pyrrole-2-carboxylic acid (49.98 mg, 0.1189 mmol) dissolved in a solvent mixture of anhydrous DMF (6 ml) and DCM (2 ml) was added thereto, PyBroP (166.29 mg, 0.3567 mmol) and DIEA (62.13 ml, 0.3567 mmol) were also added thereto, and the reaction solution was reacted according to the same procedure as Step (4-1) of Example 2 to give 1-methyl-4-({1-methyl-4-[2-(4-trifluoromethyl-benzenesulfonyl)ethoxycarbonylamino]-1H-pyrrole-2-carbonyl}-amino)--1H-imidazole-2-carboxylic acid ethyl ester (51.05 mg, 75.12%) of a pale yellow solid.

reactant | 1-Methyl-4-nitroimidazole-2-carboxylic acid ethyl ester | 0.3567 mmol, 71.05 mg | C(C)OC(=O)C=1N(C=C(N1)[N+](=O)[O-])C | C7H9N3O4
reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 1-Methyl-4-[2-(4-trifluoromethyl-benzenesulfonyl)-ethoxycarbonylamino]-1H-pyrrole-2-carboxylic acid | 0.1189 mmol, 49.98 mg | CN1C(=CC(=C1)NC(=O)OCCS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C16H15F3N2O6S
reactant | PyBroP | 0.3567 mmol, 166.29 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.3567 mmol, 62.13 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | EA | 10 ml | CC(OCC)=O | C4H8O2
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 1-methyl-4-({1-methyl-4-[2-(4-trifluoromethyl-benzenesulfonyl)ethoxycarbonylamino]-1H-pyrrole-2-carbonyl}-amino)--1H-imidazole-2-carboxylic acid ethyl ester | 51.05 mg, 75.12% | C(C)OC(=O)C=1N(C=C(N1)NC(=O)C=1N(C=C(C1)NC(=O)OCCS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C23H24F3N5O7S
